data/oMe_Silver.jsonl
{"reaction_id": "NR-229_1-c1ccc(C(F)(F)F)cc1_2-c1cnccc1_3-CC_4-CC_5-c1ccc(N(C)C)cc1","level": "medium","name": "Prins Reaction","reactants_smiles": ["O=C(c1ccc(C(F)(F)F)cc1)(c1cnccc1)","C(CC)=C(CC)(c1ccc(N(C)C)cc1)","O"],"products_smiles": ["C([OH])(CC)(c1ccc(N(C)C)cc1)C(CC)(C(O)(c1ccc(C(F)(F)F)cc1)(c1cnccc1))"],"conditions": "acidic conditions","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(C(F)(F)F)cc1)(c1cnccc1)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via resonance and inductive effects, making it more susceptible to nucleophilic attack by the alkene."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[C+](CC)(c1ccc(N(C)C)cc1)C(CC)(C(O)(c1ccc(C(F)(F)F)cc1)(c1cnccc1))","step_weight": 0,"rationale": "The electron-rich alkene attacks the activated carbonyl carbon, forming a carbocation stabilized by adjacent substituents and the oxygen atom through inductive and hyperconjugative effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([OH2+])(CC)(c1ccc(N(C)C)cc1)C(CC)(C(O)(c1ccc(C(F)(F)F)cc1)(c1cnccc1))","step_weight": 0,"rationale": "Water, abundant under acidic conditions, acts as a nucleophile and attacks the carbocation center, favored by the high electrophilicity and lack of steric hindrance at that position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH])(CC)(c1ccc(N(C)C)cc1)C(CC)(C(O)(c1ccc(C(F)(F)F)cc1)(c1cnccc1))","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores neutrality, driven by the stability of the neutral alcohol and the presence of a suitable base in the medium."}],"description": "Under acidic conditions, the carbonyl is protonated to enhance electrophilicity, enabling the alkene to attack and form a carbocation. Water then adds to the carbocation, and final deprotonation yields the Prins reaction product with hydroxyl substitution."}
